US05674906
Synthesis of (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene-L-serineamide
(Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene-Fmoc-L-serineamide (1.04 g, 1.56 mmols) was dissolved in 10 ml of methanol and 10 ml of dichloromethane, and 1.7 ml (3.4 mmols) of an aqueous solution of 2-N sodium hydroxide were added thereto. The mixture was stirred at room temperature for 24 hours. A saturated aqueous solution of sodium chloride was added thereto, and the resulting mixture was extracted three times with dichloromethane. The extract was dried over anhydrous sodium sulfate, and concentrated to dryness under reduced pressure. The product was purified using a silica-gel plate (mixture of 5-% by volume methanol and dichloromethane) to produce 315 mg of the final compound in a yield of 50.2%.

reactant | (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene Fmoc-L-serineamide | 1.56 mmols, 1.04 g | NC=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CO)C(=O)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene L-serineamide | 315 mg, yield of 50.2% | NC=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC.N[C@@H](CO)C(=O)N | InChI=1S/C18H21NO4.C3H8N2O2/c1-20-15-8-7-12(9-14(15)19)5-6-13-10-16(21-2)18(23-4)17(11-13)22-3;4-2(1-6)3(5)7/h5-11H,19H2,1-4H3;2,6H,1,4H2,(H2,5,7)/b6-5-;/t;2-/m.0/s1
